US07449466B2
Production Example 2 was repeated except that 1-(4-methoxyphenyl)-4-phenethylpiperazine was replaced with 1-(2,5-difluoro-4-methoxyphenyl)-N-(1-ethylpropyl)-4-piperidine-carboxamide (167 mg). The resulting crude product was purified on TLC (developer, chloroform: methanol=12:1) to provide 1-(2,5-difluoro-4-hydroxyphenyl)-N-(1-ethylpropyl)-4-piperidinecarboxamide (95 mg).

reactant | 1-(4-methoxyphenyl)-4-phenethylpiperazine | COC1=CC=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1 | C19H24N2O
reactant | 1-(2,5-difluoro-4-methoxyphenyl)-N-(1-ethylpropyl)-4-piperidine-carboxamide | 167 mg | FC1=C(C=C(C(=C1)OC)F)N1CCC(CC1)C(=O)NC(CC)CC | C18H26F2N2O2
product | 1-(2,5-difluoro-4-hydroxyphenyl)-N-(1-ethylpropyl)-4-piperidinecarboxamide | 95 mg | FC1=C(C=C(C(=C1)O)F)N1CCC(CC1)C(=O)NC(CC)CC | C17H24F2N2O2
